US04256898
Preparation 6a dl-Trans-4-hydroxy-3-phthalimido-cyclopentene
A 31.3 g. (0.115 M) quantity of dl-trans-3-amino-4-hydroxycyclopentene toluenesulfonate is dissolved in 240 ml. of tetrahydrofuran and 47 ml. (0.46 M) of triethylamine. The resultant stirred solution is cooled to 5° and treated dropwise with 22.8 g. (0.115 M) of o-methoxycarbonylbenzoylchloride. The reaction is then allowed to warm to 25°. After 48 hours the reaction is partitioned between Ethyl acetate and water. The ethyl acetate layer is dried over magnesium sulfate and concentrated in vacuo leaving 29.6 g. of residue. This residue is chromatographed over silica gel 60 eluted with 5 l. of (10-90) and 7.5 l. of (20-80) acetone-methylene chloride. Three hundred ml. fractions are collected. The product is isolated in fractions 25-35, which upon standing crystallizes to yield 14.2 g. of dl-trans-4-hydroxy-3-phthalido-cyclopentene, m.p. 114°-116°.

reactant | trans-3-amino-4-hydroxycyclopentene toluenesulfonate | C=1(C(=CC=CC1)S(=O)(=O)O)C.N[C@@H]1C=CC[C@H]1O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | o-methoxycarbonylbenzoylchloride | 0.115 M | COC(=O)C1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
solvent | triethylamine | 0.46 M | C(C)N(CC)CC | C6H15N
product | Trans-4-hydroxy-3-phthalimido-cyclopentene | O[C@H]1[C@@H](C=CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C13H11NO3
